Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Epistaxis, hypertensive urgency
 
Major Surgical or Invasive Procedure:
Rhino rocket to left nares (put in ___

 
History of Present Illness:
___ female with history of HTN. A. fib on Xarelto 
presents from ___ ___ uncontrolled epistaxsis. Patient 
states she woke up at around 2 AM w/sinus pressure and metallic 
taste in her mouth. She noticed that she was having a 
significant nosebleed primarily from her left naris. Patient 
went to ___ attempts to stop bleeding w/5.5cm Rhino 
Rocket failed, continued clots/bleeding so 7.5cm Rhino Rocket 
was inserted and pt was transferred for ENT eval.  

In the ED, initial vitals were: 97.5 62 182/91 14 94% RA  
Exam notable for no bleeding from right naris/Rhino Rocket 
packed in Left naris. Bleeding visualized in the posterior 
oropharynx.
Labs notable for mildly elevated PTT 45.1, INR 1.5
Patient was given 10mg IV hydralazine, 875mg PO augmentin, 200mg 
PO labetalol w/improvement in BP control to 140s
Per ENT no active bleeding requiring change of packing but 
likely continued ooze ___ HTN
Decision was made to admit for continued management of ongoing 
bleeding
 
On the floor, patient reports feeling fine. Patient states that 
she still feels oozing down the back of her throat, having 
blood-tinged tearing from L eye. Patient denies any 
lightheadedness/dizziness, f/c nausea/vomiting, chest pain, 
shortness of breath. She denies hx of easy bleeding/bruising, 
denies hx blood clots, denies fam hx of blood clots/bleeding. 
Reports having long-term difficulty controlling her BP; states 
she has been running in the 160s/90s during checks with her PCP. 
She denies symptoms of HTN including vision changes, ringing in 
the ears. She does note frontotemporal headache that she states 
she gets when she is stressed. She also notes having sinus 
pressure on the left-side described as a "draining" feeling. She 
states she has been compliant with her anti-HTN at home.   

 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
-HTN
-A fib on xarelto
 
Social History:
___
Family History:
In family w/___ children
Denies hx of bleeding d/o, sister w/blood clots from HRT
 
Physical Exam:
ADMISSION
VS:  97.8 146/85 67 20 100%RA
Gen: NAD, comfortable
HEENT: AT/NC, PERRL, (+) blood-tinged tears from L eye, L naris 
packed w/Rhino Rocket w/o signs of active bleeding, no blood 
from R naris, posterior throat w/trace blood  
CV: RRR, (+)S1, S2, no m/r/g 
Pulm:  CTAB
Abd:  soft, ND/NT, (+)BS 
Ext: WWP, no edema/clubbing/cyanosis 
Skin:  clear w/o bruising, rash
Neuro:  AAOx3, CNII-XII grossly intact, full ___ strength in 
___
Psych:  pleasant, calm, goal-directed  

DISCHARGE
VS:  98.3 143/80 62 20 99%RA
Gen: NAD, comfortable
HEENT: AT/NC, PERRL, L naris packed w/Rhino Rocket w/o signs of 
active bleeding, no blood from R naris, clear posterior throat
CV: RRR, (+)S1, S2, no m/r/g 
Pulm:  CTAB
Abd:  soft, ND/NT, (+)BS 
Ext: WWP, no edema/clubbing/cyanosis 
Skin:  clear w/o bruising, rash 
 
Pertinent Results:
ADMISSION
___ 06:00AM   GLUCOSE-111* UREA N-22* CREAT-0.7 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-26 ANION GAP-15
___ 06:00AM   WBC-7.6 RBC-3.58* HGB-11.7 HCT-34.6 MCV-97 
MCH-32.7* MCHC-33.8 RDW-12.6 RDWSD-44.7
___ 06:00AM   ___ PTT-45.1* ___

DISCHARGE
___ 07:00AM BLOOD WBC-8.0 RBC-3.74* Hgb-12.5 Hct-36.0 
MCV-96 MCH-33.4* MCHC-34.7 RDW-13.0 RDWSD-45.9 Plt ___
___ 07:00AM BLOOD ___ PTT-34.5 ___
___ 07:00AM BLOOD Glucose-107* UreaN-15 Creat-0.7 Na-140 
K-3.6 Cl-103 HCO3-27 AnGap-14
___ 07:00AM BLOOD Calcium-9.9 Phos-3.8 Mg-2.___ F PMHx HTN, atrial fibrillation on ___ transferred from 
___ for uncontrolled epistaxis, hypertensive urgency. 

# Hypertensive urgency: Patient initially presented w/severe 
epistaxis, mild headache w/SBPs in 180s c/f hypertensive 
urgency. Patient reports compliance with outpatient anti-HTN 
regimen; however does note she has been running in the 160s/90s. 
She has no symptoms c/f hypertensive emergency such as 
encephalopathy, chest pain, ongoing bleeding, lab abnormalities. 
Goal BP SBP 140s to allow for hemostasis of her epistaxis. Given 
her elevated blood pressures, her home labetalol was increased 
from 200mg TID to ___ TID and her home losartan 100mg daily 
was continued with improvement in her pressures. She should 
continue to check her blood pressures daily and follow-up with 
her primary care doctor for further monitoring. 
 
# Epistaxis: patient had rhino rocket placed in left naris by 
ENT at ___. She was evaluated in the ED by ENT who saw no 
evidence of ongoing brisk bleed. Per ENT recommendations, her 
rhino rocket should stay in place for ___ days. She was 
empirically started on Keflex ___ BID which she should 
continue x5 days (day 1 ___. She also received Afrin nasal 
spray for symptom treatment. In the setting of her bleed, her 
Xarelto was held. She should follow-up with her PCP ___: 
restarting/discontinuing Xarelto. She should follow-up with ENT 
in ___ days for removal of the rhino rocket. 
 
# Atrial fibrillation on xarelto: CHADS2 = 2. Given active 
bleeding resulting in hospitalization, patient's anticoagulation 
was held. She should follow-up with her PCP ___: 
restarting/discontinuing Xarelto. 

Transitional Issues:
[] Xarelto held ___ bleed and CHADS 2; please discuss restarting 
as outpatient
[] Her home labetalol increased to 300mg TID, continue losartan 
100mg daily
# Code: FULL

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Labetalol 200 mg PO TID 
2. Losartan Potassium 100 mg PO DAILY 
3. Rivaroxaban 20 mg PO DAILY 

 
Discharge Medications:
1. Labetalol 300 mg PO TID 
RX *labetalol 300 mg 1 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*0
2. Losartan Potassium 100 mg PO DAILY 
3. Cephalexin 500 mg PO Q12H 
Last day ___ 
RX *cephalexin 500 mg 1 capsule(s) by mouth twice a day Disp #*5 
Capsule Refills:*0
4. Oxymetazoline 1 SPRY NU BID:PRN nasal congestion Duration: 3 
Days 
RX *oxymetazoline 0.05 % 1 spray nasal BID PRN Disp #*1 Spray 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
-Epistaxis
-Hypertension

SECONDARY DIAGNOSIS:
-Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to ___ due to profuse 
nose bleeding and concern for high blood pressure. Your nose 
bleeding was stopped with a special packing the by 
Ear-Nose-and-Throat doctors; ___ will need to call their clinic 
at ___ to schedule follow-up this week. In addition, 
___ were started on an antibiotic called Keflex to protect 
against infection; ___ should continue taking Keflex twice per 
day for a total of 5 days (last day ___. For symptom 
management ___ can continue with the Afrin nasal spray as 
needed.

Because of the difficulty in stopping your nose bleeding, your 
Xarelto was held. Please do not take the Xarelto until your 
follow-up with your primary care doctor. 

In addition, your blood pressure was very high during your stay. 
We increased your labetalol to 300mg three times per day and 
continued your losartan 100mg daily. ___ should continue on this 
higher dose. It is very important ___ take your medications 
every day and go to your doctor if ___ have a severe headache, 
change in vision, or change in hearing.

Thank ___ for letting us be a part of your care!
Your ___ Team
 
Followup Instructions:
___